US09388176B2
1-[4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)phenyl]-3-(3-methylphenyl)urea
To a mixture of 4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)aniline dihydrochloride (75.0 mg, 0.251 mmol) and N,N-diisopropylethylamine (0.109 mL, 0.63 mmol) in 3.0 mL CH2Cl2 at rt was added meta-tolyl isocyanate (0.047 mL, 0.377 mmol) and the reaction stirred at rt for 2 hours. The reaction was quenched with 1.0 mL MeOH, stirred for 15 min and then evaporated. The sample was partitioned between EtOAc and H2O/brine mixture, the EtOAc layer washed with aqueous Na2CO3 solution, brine, dried with anhydrous Na2SO4, and evaporated to a tan solid. The solid was chromatographed eluting with CH2Cl2, EtOAc, then 3% MeOH/EtOAc to give the title compound as a white solid (79 mg, 88%). 1H NMR (DMSO-d6) δ: 8.45 (s, 1H), 8.42 (s, 1H), 8.37 (s, 1H), 8.31 (d, J=5.0 Hz, 1H), 7.29-7.35 (m, 2H), 7.28 (s, 1H), 7.16-7.23 (m, 2H), 7.10-7.16 (m, 1H), 6.96-7.02 (m, 2H), 6.76 (d, J=7.0 Hz, 1H), 4.33 (s, 2H), 3.47 (t, J=5.9 Hz, 2H), 2.91 (t, J=5.7 Hz, 2H), 2.27 (s, 3H).

reactant | 4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)aniline dihydrochloride | 0.251 mmol, 75.0 mg | Cl.Cl.C1N(CCC2=CC=NC=C12)C1=CC=C(N)C=C1
reactant | N,N-diisopropylethylamine | 0.63 mmol, 0.109 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | meta-tolyl isocyanate | 0.377 mmol, 0.047 mL | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)phenyl]-3-(3-methylphenyl)urea | 79 mg, 88% | C1N(CCC2=CC=NC=C12)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)C | C22H22N4O
